US05958894
To a solution of 10 ml (0.1 mol) diethanolamine in 150 ml of acetonitrile was added 22.8 g (0.105 mol) of di-tert-butyl-pyrocarbonate and the mixture was stirred overnight at room temperature. The resulting solution was evaporated, the residue dissolved in ethyl acetate/hexane (7:3 (v/v)) and passed through a plug of silica. Evaporation of the solvent yielded 16.4 g (80%) N-BOC diethanolamine.

reactant | diethanolamine | 0.1 mol, 10 ml | N(CCO)CCO | C4H11NO2
reactant | di-tert-butyl-pyrocarbonate | 0.105 mol, 22.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-BOC diethanolamine | 16.4 g, 80% | C(=O)(OC(C)(C)C)N(CCO)CCO | C9H19NO4
